US04948796
4.67 g of ethyl (E)-3-(3-amino-4-isopropylphenyl)acrylate was dissolved in 46.7 ml of acetic acid. To the solution was added 46.7 ml of 2N hydrochloric acid with ice-cooling. To the mixture was dropwise added 10 ml of an aqueous solution containing 1.52 g of sodium nitrite. The mixture was stirred for 30 minutes at the same temperature. The reaction mixture was added to 30 ml of 6N hydrochloric acid solution containing 2.18 g of cuprous chloride, with ice-cooling. The mixture was stirred for 1 hour at the same temperature and then for 2 hours at room temperature. To the reaction mixture was added 100 ml of ethyl acetate. The organic layer was separated and washed with water. Thereto was added 50 ml of water. The mixture was adjusted to about pH 7 with sodium hydrogencarbonate. The organic layer was separated, washed with water and a saturated aqueous sodium chloride solution in this order, and dried over anhydrous magnesium sulfate. The solvent was removed by distillation under reduced pressure. The residue was purified by a column chromatography (eluant: n-hexane/ethyl acetate=20/1) to obtain 3.57 g of colorless oily ethyl (E)-3-(3-chloro-4-isopropylphenyl)acrylate.

reactant | ethyl (E)-3-(3-amino-4-isopropylphenyl)acrylate | 4.67 g | NC=1C=C(C=CC1C(C)C)/C=C/C(=O)OCC | C14H19NO2
reactant | hydrochloric acid | 2N, 46.7 ml | Cl | ClH
reactant | sodium nitrite | 1.52 g | N(=O)[O-].[Na+]
reactant | hydrochloric acid | 6N, 30 ml | Cl | ClH
reactant | ethyl acetate | 100 ml | C(C)(=O)OCC | C4H8O2
solvent | acetic acid | 46.7 ml | C(C)(=O)O | C2H4O2
product | ethyl (E)-3-(3-chloro-4-isopropylphenyl)acrylate | 3.57 g | ClC=1C=C(C=CC1C(C)C)/C=C/C(=O)OCC | C14H17ClO2
